Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
R facial and arm paresthesia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ y/o woman w/ factor V Leiden (on 
rivaroxaban), SLE, hypothyroidism, and h/o renal failure; she 
presented for new-onset R-face and RUE paresthesia/numbness.
No known inciting factors. No missed medication doses.
She was noted to have R-facial and RUE decreased sensation to 
pinprick and vibration. Neurologic exam o/w normal.
Admitted to Neurology due to concern for stroke causing 
unilateral sensory changes.
 
Past Medical History:
factor V Leiden (on rivaroxaban);
SLE;
hypothyroidism;
h/o renal failure
 
Social History:
___
Family History:
unremarkable
 
Physical Exam:
General: Awake, cooperative, anxious appearing.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:  
-Mental Status: Alert, oriented, attentive. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt. was able to name both high and 
low
frequency objects. Can describe stroke card in good detail. Able
to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect. When
trying to remember the names of her medications, she bursts out
into tears. 

CN  
I: not tested  
II,III: VFF to confrontation, pupils 4mm->2mm bilaterally
III,IV,VI: EOMI, no ptosis. No nystagmus  
V: sensation intact V1-V3 to LT  
VII: Facial strength intact/symmetrical, symm forehead wrinkling 

VIII: hears finger rub bilaterally  
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline with full excursions bilaterally,
no dysarthria  

Motor: Normal bulk and tone, no rigidity; no asterixis or
myoclonus. No pronator drift.  
  Delt Bi Tri WE FE Grip  IO  
  C5   C6 C7  C6 C7 C8/T1 T1  
L 5    ___  5  5     5
R 5    ___  5  5     5
 
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L 5  5     5    ___ 
R 5  5     5    ___

Reflex: No clonus  
  Bi Tri Bra Pat An Plantar  
  C5 C7  C6  L4  S1 CST  
L ___   2   ___ Flexor  
R ___   2   ___ Flexor 

-Sensory: No deficits to light touch. No extinction to DSS. 
Decreased pinprick in the right face 80% compared to 100% on the
left. Splits the midline with vibration on the face. Decreased
pinprick in the right arm distal to the elbow, 75% compared to
100% on the left. Pinprick above the elbow symmetric. Pinprick 
in
the leg symmetric bilaterally. JPS intact bilaterally. Vibration
>10 seconds at the great toes bilaterally. 
 
-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF or HKS bilaterally.  

Gait: stable.
 
Pertinent Results:
___ 06:30AM BLOOD WBC-5.4 RBC-4.22 Hgb-12.6 Hct-39.3 MCV-93 
MCH-29.9 MCHC-32.1 RDW-12.5 RDWSD-42.9 Plt ___
___ 10:18AM BLOOD ___ PTT-29.0 ___
___ 06:30AM BLOOD Glucose-84 UreaN-12 Creat-1.6* Na-144 
K-4.0 Cl-107 HCO3-24 AnGap-13
___ 10:18AM BLOOD ALT-17 AST-24 AlkPhos-86 TotBili-0.5
___ 06:30AM BLOOD Triglyc-41 HDL-51 CHOL/HD-3.0 LDLcalc-96
___ 10:18AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman w/ factor V Leiden (on 
rivaroxaban), SLE, hypothyroidism, and h/o renal failure; she 
presented for new-onset R-face and RUE paresthesia/numbness.
No known inciting factors. No missed medication doses.
She was noted to have R-facial and RUE decreased sensation to 
pinprick and vibration. Neurologic exam o/w normal.
Admitted to Neurology due to concern for stroke causing 
unilateral sensory changes.
Pt had no acute events inpt. Did note moderate headache that 
started shortly after admission.
MRI brain negative for stroke.
She was discharged in stable condition to f/up w/ primary care.
 
Medications on Admission:
1.  Hydroxychloroquine Sulfate 200 mg PO BID  
2.  Levothyroxine Sodium 150 mcg PO DAILY  
3.  Omeprazole 20 mg PO BID  
4.  Rivaroxaban 20 mg PO DAILY  
 
Discharge Medications:
1.  Hydroxychloroquine Sulfate 200 mg PO BID  
2.  Levothyroxine Sodium 150 mcg PO DAILY  
3.  Omeprazole 20 mg PO BID  
4.  Rivaroxaban 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
focal paresthesias

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

  You were admitted for evaluation of sensory changes in the 
right-side of your face and right forearm.
  MRI did not show any evidence of stroke.
  You should follow-up with your primary care physician at the 
earliest available appointment. If he or she deems it necessary, 
follow-up with Neurology.

It was a pleasure taking care of you.
 - Your ___ Neurology team
 
Followup Instructions:
___